US08685970B2
Ethyl 6-hydroxypicolinate (500 mg, 2.7 mmol), (R)-(2,2-dimethyl-1,3-dioxolan-4-yl)methanol (1.11 mL, 3.0 eq) and NaH (60% dispersion in mineral oil, 385 mg, 3.3 eq) in THF was refluxed 18 hours. The reaction mixture was cooled to room temperature, acidified to pH=4, added to brine and extracted with ethyl acetate. The organic layer was dried, concentrated and recrystallized from pentane/ethylacetate to obtain (R)-6-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)picolinic acid (500 mg, 74% yield).

reactant | Ethyl 6-hydroxypicolinate | 2.7 mmol, 500 mg | OC1=CC=CC(=N1)C(=O)OCC | C8H9NO3
reactant | (R)-(2,2-dimethyl-1,3-dioxolan-4-yl)methanol | 1.11 mL, 3.0 eq | CC1(OC[C@H](O1)CO)C | C6H12O3
reactant | NaH | 385 mg, 3.3 eq | [H-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | (R)-6-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)picolinic acid | 500 mg, 74% yield | CC1(OC[C@H](O1)COC1=CC=CC(=N1)C(=O)O)C | C12H15NO5
